US05380735
Synthesis of 4-bromo-2-mercapto-6-methylbenzothiazole
3.1 g of 2,4-dibromo-6-methylbenzothiazole, 1.0 g of sodium hydrogensulfide and 30 ml of methanol were mixed and the obtained mixture was refluxed for one hour, cooled to room temperature and then distilled under reduced pressure to remove methanol. The residue was extracted with dichloromethane by adding water and dichloromethane. The dichloromethane layer was dried with anhydrous sodium sulfate and evaporated to obtain the title compound in a solid state (Yield: 84%).

reactant | 2,4-dibromo-6-methylbenzothiazole | 3.1 g | BrC=1SC2=C(N1)C(=CC(=C2)C)Br | C8H5Br2NS
reactant | sodium hydrogensulfide | 1.0 g | S.[Na]
solvent | methanol | 30 ml | CO | CH4O
product | 4-bromo-2-mercapto-6-methylbenzothiazole | Yield: 84% | BrC1=CC(=CC2=C1N=C(S2)S)C | C8H6BrNS2
